US07897767B2
Using the general method of Example 5 Part C, tert-butyl[2-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate (7 g, 19 mmol)) was reacted with N-hydroxyphthalimide (3.65 g, 22.3 mmol) to provide 6.37 g of tert-butyl (2-{4-amino-2-[(1,3-dioxo-1,3-dihydroisoindol-2-yl)oxymethyl]-1H-imidazo[4,5-c]quinolin-1-yl}ethyl)carbamate as a yellow solid.

reactant | tert-butyl[2-(4-amino-2-chloromethyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]carbamate | 19 mmol, 7 g | C(C)(C)(C)OC(NCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCl)=O | C18H22ClN5O2
reactant | N-hydroxyphthalimide | 22.3 mmol, 3.65 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
product | tert-butyl (2-{4-amino-2-[(1,3-dioxo-1,3-dihydroisoindol-2-yl)oxymethyl]-1H-imidazo[4,5-c]quinolin-1-yl}ethyl)carbamate | 6.37 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCNC(OC(C)(C)C)=O)CON2C(C1=CC=CC=C1C2=O)=O | C26H26N6O5
